US06426345B1
To a mixture of 2-(3-amino-5-methoxycarbonylphenylamino)-3-nitropyridine (550 mg) and triethylamine (0.3 ml) in 1,4-dioxane (10 ml) was added 2-naphthoyl chloride (0.40 g). The mixture was stirred at room temperature for 15 minutes, then poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase containing orange solid was washed with water twice and the solid was collected to give 2-[3-methoxycarbonyl-5-(2-naphthoylamino)phenylamino]-3-nitropyridine (730 mg).

reactant | 2-(3-amino-5-methoxycarbonylphenylamino)-3-nitropyridine | 550 mg | NC=1C=C(C=C(C1)C(=O)OC)NC1=NC=CC=C1[N+](=O)[O-] | C13H12N4O4
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2-naphthoyl chloride | 0.40 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[3-methoxycarbonyl-5-(2-naphthoylamino)phenylamino]-3-nitropyridine | 730 mg | COC(=O)C=1C=C(C=C(C1)NC(=O)C1=CC2=CC=CC=C2C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C24H18N4O5
